US07585885B2
5-Benzoyl-N-methyl-N-propyl-isophthalamic acid methyl ester
Dissolve N-methyl-N-propyl-5-tributylstannanyl-isophthalamic acid methyl ester (480 mg, 0.8 mmol), benzoyl chloride (117 mg), tris(dibenzylideneacetone)dipalladium (0) (19.3 mg) and 2-(di-tert-butylphosphino)biphenyl (34.5 mg) in chloroform (8 mL) in a previously degassed sealed vessel. Flush the mixture with nitrogen and heat the sealed mixture overnight at 60° C. Cool the reaction to room temperature and filter though a filtering agent. Concentrate the filtrate and purify (silica gel chromatography, eluting with 0:100 to 30:70 ethyl acetate:hexanes) to give the title compound (66%).

reactant | N-methyl-N-propyl-5-tributylstannanyl-isophthalamic acid methyl ester | 0.8 mmol, 480 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)[Sn](CCCC)(CCCC)CCCC)=O
reactant | benzoyl chloride | 117 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-(di-tert-butylphosphino)biphenyl | 34.5 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tris(dibenzylideneacetone)dipalladium | 19.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-Benzoyl-N-methyl-N-propyl-isophthalamic acid methyl ester | 66% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C1=CC=CC=C1)=O)=O | C20H21NO4
